US20010009958A1
4-(3-hydroxymethyl-benzyloxy)-benzonitrile:
20.05 kg (26.7 mol) of methyl 3-(4-cyano-phenoxymethyl)-benzoate are dissolved in 100 liters of THF and 40 liters of methanol. At 40 to 45° C., 8.51 kg of sodium boranate are added in batches. The reaction is completed by stirring the reaction mixture at 61 to 63° C. for about 5 hours. The reaction mixture is then cooled to 25° C. and 90 liters of a 15% sodium hydroxide solution are added. After stirring, the aqueous supernatant is separated off and mixed with 30 liters of a 22.5% sodium hydroxide solution. After stirring, the aqueous supernatant is separated off and from this about 100 liters of solvent are distilled off at a sump temperature of 63 to 75° C. The distillation residue is crystallised by the addition of 20 liters of isopropanol at 50 to 60° C. and 150 liters of water at 40 to 50° C. After the suspension has been cooled to 20 to 30° C. the crystals are separated off, washed with 60 to 100 liters of water and batchwise with 25 liters of cold isopropanol and dried in vacuo.

reactant | methyl 3-(4-cyano-phenoxymethyl)-benzoate | 26.7 mol, 20.05 kg | C(#N)C1=CC=C(OCC=2C=C(C(=O)OC)C=CC2)C=C1 | C16H13NO3
reactant | sodium boranate | 8.51 kg | B(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 100 liters | C1CCOC1 | C4H8O
solvent | methanol | 40 liters | CO | CH4O
product | 4-(3-hydroxymethyl-benzyloxy)-benzonitrile | OCC=1C=C(COC2=CC=C(C#N)C=C2)C=CC1 | C15H13NO2
